US05190959
Into 20 ml of methyl isobutyl ketone were dissolved 2.09 g of phenyl-2-thienylmethyl chloride, 3.50 g of 4-hydroxy-1-[4-(2-nitrophenoxy)-2(E)-butenyl]piperidine and 1.94 g of N,N-diisopropylethylamine, and the resultant solution was heated under reflux with stirring for 2 hours. After cooling, the reaction solution was washed with water, and the solvent was removed under reduced pressure. The residue was eluted with ethanol-chloroform (1:50) by silica gel column chromatography to give 3.06 g of oily 4-(phenyl-2-thienylmethoxy)-1-[4-(2-nitrophenoxy)-2(E)-butenyl]piperidine.

reactant | phenyl-2-thienylmethyl chloride | 2.09 g | C1(=CC=CC=C1)C(C=1SC=CC1)Cl | C11H9ClS
reactant | 4-hydroxy-1-[4-(2-nitrophenoxy)-2(E)-butenyl]piperidine | 3.50 g | OC1CCN(CC1)C\C=C\COC1=C(C=CC=C1)[N+](=O)[O-] | C15H20N2O4
reactant | N,N-diisopropylethylamine | 1.94 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methyl isobutyl ketone | 20 ml | C(C(C)C)C(=O)C | C6H12O
product | 4-(phenyl-2-thienylmethoxy)-1-[4-(2-nitrophenoxy)-2(E)-butenyl]piperidine | 3.06 g | C1(=CC=CC=C1)C(OC1CCN(CC1)C\C=C\COC1=C(C=CC=C1)[N+](=O)[O-])C=1SC=CC1 | C26H28N2O4S
